US06759554B2
4-Cyclopentoxyanisole
A test tube was charged with CuI (20 mg, 0.10 mmol, 10 mol %), 5-methyl-1,10-phenanthroline (39 mg, 0.20 mmol, 20 mol %), Cs2CO3 (652 mg, 2.0 mmol), 4-iodoanisole (234 mg, 1.0 mmol) and cyclopentanol (1.0 mL). The test tube was sealed and the reaction mixture was stirred at 110° C. for 24 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with diethyl ether. The filtrate was concentrated. Purification of the residue by flash chromatography on silica gel (2×20 cm; pentane/diethyl ether 30:1) provided 128 mg (67% yield) of the title compound as a colorless oil.

reactant | 5-methyl-1,10-phenanthroline | 0.20 mmol, 39 mg | CC1=C2C=CC=NC2=C2N=CC=CC2=C1 | C13H10N2
reactant | Cs2CO3 | 2.0 mmol, 652 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-iodoanisole | 1.0 mmol, 234 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | cyclopentanol | 1.0 mL | C1(CCCC1)O | C5H10O
catalyst | CuI | 0.10 mmol, 20 mg | [Cu]I
product | 4-Cyclopentoxyanisole | 128 mg, 67% yield | C1(CCCC1)OC1=CC=C(C=C1)OC | C12H16O2
